US05442060
To a suspension of 60% sodium hydride (440 mg, 11 mmol) in 5 ml of dimethylformamide was added a solution of 2.30 g (10 mmol) of n-pentylmalonic acid diethyl ester in 5 m of dimethylformamide under stirring and ice cooling, and the resultant mixture was stirred for 30 minutes. A solution of 1.86 g (10 mmol) of 2, 3-dimethoxybenzyl chloride in 5 ml of dimethylformamide was dropwise added to the mixture, which was stirred at 70° C. for 1 hour. After cooling, the reaction mixture was mixed with water and extracted with ethyl acetate. The organic layers were combined, washed with water and saturated saline in this order, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The residue was chromatographed on a silica gel column, eluting with ethyl acetate/hexane (1/12) to give 2.78 g of 2, 3-dimethoxybenzyl-n-pentylmalonic acid diethyl ester as a colorless oil. Yield, 73%.

reactant | sodium hydride | 11 mmol, 440 mg | [H-].[Na+]
reactant | n-pentylmalonic acid diethyl ester | 10 mmol, 2.30 g | C(C)OC(C(C(=O)OCC)CCCCC)=O | C12H22O4
reactant | 2, 3-dimethoxybenzyl chloride | 10 mmol, 1.86 g | COC1=C(CCl)C=CC=C1OC | C9H11ClO2
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2, 3-dimethoxybenzyl-n-pentylmalonic acid diethyl ester | 2.78 g | C(C)OC(C(C(=O)OCC)(CCCCC)CC1=C(C(=CC=C1)OC)OC)=O | C21H32O6
